US05132310
rac-[2-(Benzo[b]thiophen-2-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
Reaction of rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 2-bromobenzo[b]-thiophene under the conditions described in example 16 gave after chromatographic isolation and crystallization from ether/hexane colorless crystals with m.p. 120°-123° C.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 2-bromobenzo[b]-thiophene | BrC1=CC2=C(S1)C=CC=C2 | C8H5BrS
product | rac-[2-(Benzo[b]thiophen-2-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | S1C2=C(C=C1C#CC1(OC3=C(CC1)C(=C(C(=C3C)C)O)C)C)C=CC=C2 | C23H22O2S
